US05914328
90a 3-((cis-4-cyano-1-methyl-2(S)-pyrrolidinyl)methoxy)pyridine
To a solution of 300 mg (1.05 mmol) of 3-((trans-1-methyl-4-methanesulfonyloxy-5-oxo-2(S)-pyrrolidinyl)-methoxy)pyridine, prepared as in Example 88a above, dissolved in 7 mL of 6:1 DMF:H2O was added 0.51 g (10.5 mmol) of NaCN, and the reaction mixture was heated at 100° C. for 5 hours. The reaction mixture was cooled, diluted with water, and extracted with chloroform. The extract was dried over MgSO4 and concentrated. The residue was purified on a silica gel column, eluting with 100:2 chloroform:methanol, to give 80 mg of the title compound.

reactant | 3-((trans-1-methyl-4-methanesulfonyloxy-5-oxo-2(S)-pyrrolidinyl)-methoxy)pyridine | 1.05 mmol, 300 mg | CN1[C@@H](C[C@H](C1=O)OS(=O)(=O)C)COC=1C=NC=CC1 | C12H16N2O5S
reactant | NaCN | 10.5 mmol, 0.51 g | [C-]#N.[Na+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-((cis-4-cyano-1-methyl-2(S)-pyrrolidinyl)methoxy)pyridine | 80 mg | C(#N)[C@H]1C[C@H](N(C1)C)COC=1C=NC=CC1 | C12H15N3O
